US06048885
Benzene (4 ml), ethylene glycol (0.12 g, 2.0 mmol) and p-toluenesulfonic acid monohydrate (0.01 g, 0.05 mmol) were added to 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetaldehyde (0.3 g, 1.0 mmol), and the mixture was subjected to azeotropic dehydration for 2 hours. After completion of the reaction, half-saturated brine (100 ml) was added, and the mixture was extracted with dichloromethane (50 ml) twice. The extracts were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(2,5-dimethylphenoxymethyl)phenyl 1,3-dioxolan-2-yl ketone O-methyloxime (0.30 g, yield 87.9%) as colorless crystals. mp 136-137° C.

reactant | Benzene | 4 ml | C1=CC=CC=C1 | C6H6
reactant | ethylene glycol | 2.0 mmol, 0.12 g | C(CO)O | C2H6O2
reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetaldehyde | 1.0 mmol, 0.3 g | CC1=C(OCC2=C(C=CC=C2)C(C=O)=NOC)C=C(C=C1)C | C18H19NO3
solvent | brine | 100 ml | [Cl-].[Na+].O
catalyst | p-toluenesulfonic acid monohydrate | 0.05 mmol, 0.01 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(2,5-dimethylphenoxymethyl)phenyl 1,3-dioxolan-2-yl ketone O-methyloxime | 0.30 g, yield 87.9% | CON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C1OCCO1 | C20H23NO4
